US06667301B2
Osmium tetroxide (17 mg, 0.07 mmole) was added to 1-pent-4-enyl-azocan-2-one (5.52 g, 28.3 mmole) in a mixture of tetrahydrofuran (100 mL) and water (50 mL) under ambient water bath cooling. The mixture was stirred for 5 minutes and solid sodium periodate (15.11 g, 70.65 mmole) was added in portions over 15 minutes. The reaction mixture was stirred for 3 hours and filtered. The filtrate was concentrated, saturated with solid sodium chloride, and extracted with methylene chloride. The organic phase was dried (magnesium sulfate) and concentrated. Purification by silica gel chromatography, eluting with chloroform, gave 4-(2-oxo-azocan-1-yl)-butyraldehyde (4.72 g).

reactant | 1-pent-4-enyl-azocan-2-one | 28.3 mmole, 5.52 g | C(CCC=C)N1C(CCCCCC1)=O | C12H21NO
reactant | sodium periodate | 70.65 mmole, 15.11 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
catalyst | Osmium tetroxide | 0.07 mmole, 17 mg | [Os](=O)(=O)(=O)=O
product | 4-(2-oxo-azocan-1-yl)-butyraldehyde | 4.72 g | O=C1N(CCCCCC1)CCCC=O | C11H19NO2
